US08071607B2
Compound 45A. 3-Methyl-pentanoic acid [4-(4-amino-pyrazolo[3,4-d]pyrimidin-1-yl)-phenyl]-amide
Title compound 11A, 1-(4-amino-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine (40 mg, 1.1 eq, 0.18 mmol) was added to a solution 3-methylpentanoic acid (20 μl, 1.0 eq, 0.16 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (27 mg, 1.1 eq, 0.18 mmol), 1-hydroxybenzotriazole (22 mg, 1.0 eq, 0.17 mmol) in DMF (1 ml) which had been stirred for 10 minutes under an inert atmosphere. The reaction was stirred at room temperature for 48 hours, after which methanol (1 ml) was added, and the solvents were removed in vacuo. The residue was purified by mass directed preparative HPLC to yield the title compound as a white solid (31 mg, 0.10 mmol, 61%). LCMS: [M+H]+=325, Rt=1.64 min, 100% purity.

reactant | 1-(4-amino-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | 0.18 mmol, 40 mg, 1.1 eq | NC1=CC=C(C=C1)N1N=CC=2C1=NC=NC2N | C11H10N6
reactant | 3-methylpentanoic acid | 0.16 mmol, 20 μl, 1.0 eq | CC(CC(=O)O)CC | C6H12O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.18 mmol, 27 mg, 1.1 eq | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.17 mmol, 22 mg, 1.0 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | methanol | 1 ml | CO | CH4O
product | 3-Methyl-pentanoic acid [4-(4-amino-pyrazolo[3,4-d]pyrimidin-1-yl)-phenyl]-amide | 0.10 mmol, 31 mg, 61% | NC1=C2C(=NC=N1)N(N=C2)C2=CC=C(C=C2)NC(CC(CC)C)=O | C17H20N6O
